US08026257B2
tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-(dimethylamino)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a solution of 2-((1-(tert-butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methoxy)-2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetic acid (25 mg, 0.039 mmol) and dimethylamine (40% in water, 0.024 mL) in dimethylformamide (1 mL) at 0° C. was added PyBOP® (24.08 mg, 0.046 mmol). The ice bath was removed and stirring continued for 1 h. The reaction was quenched by addition of water and diluted with diethyl ether. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (50%→85% ethyl acetate/n-hexane) gave 21 mg (81%) as a foam solid. 1H-NMR (CDCl3, 500 MHz) δ 8.01 (s, 1H), 7.57 (d, J=1.8 Hz, 1H), 7.31 (dd, J=8.5, 5.5 Hz, 2H), 7.09 (d, J=1.8 Hz, 1H), 6.99 (dd, J=8.6, 8.5 Hz, 2H), 5.66 (d, J=10.7 Hz, 1H), 5.62 (d, J=10.7 Hz, 1H), 3.70 (m, 2H), 3.57 (m, 3H), 3.44 (d, J=8.9 Hz, 1H), 3.05 (m, 2H), 2.88 (s, 3H), 2.80 (s, 3H), 2.13 (m, 2H), 1.91 (m, 2H), 1.42 (s, 9H), 0.91 (t, J=8.3 Hz, 2H), −0.04 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 169.0, 161.5 (d, J=245 Hz), 155.0, 145.8, 138.7, 129.0 (d, J=7.7 Hz), 128.3, 125.9, 122.7, 122.5, 119.2, 115.2 (d, J=21 Hz), 82.1, 79.4, 78.4, 75.7, 67.7,41.4, 40.1 (br), 36.8, 36.1, 32.1, 28.6, 17.9, −1.3. Mass spec.: 675.38 (MH)+.

reactant | 2-((1-(tert-butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methoxy)-2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetic acid | 0.039 mmol, 25 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)F)COC(C(=O)O)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)Cl | C32H43ClFN3O6Si
reactant | dimethylamine | 0.024 mL | CNC | C2H7N
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-(dimethylamino)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC1=CC2=CN(N=C2C(=C1)C(C(=O)N(C)C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C34H48ClFN4O5Si
